US07465731B2
To an ice-cooled solution of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(4-methoxybenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate (360 mg) in dichloromethane (2 ml) was added anisole (11.0 ml) and TFA (2.0 ml), the mixture was stirred at 20° C. for 1 hour. The mixed solution was poured into a mixture of water (20 ml) and AcOEt (20 ml). The pH of the aqueous layer was adjusted to ca.9 with NaHCO3. The organic layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure to give ethyl (2E)-3-(6-{[(3R)-1-(4-methoxybenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate as syrup (295 mg).

reactant | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(4-methoxybenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 360 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CN(CC1)CC1=CC=C(C=C1)OC | C27H35N3O5
reactant | anisole | 11.0 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 2.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | AcOEt | 20 ml | CCOC(=O)C | C4H8O2
solvent | water | 20 ml | O | H2O
product | ethyl (2E)-3-(6-{[(3R)-1-(4-methoxybenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 295 mg | COC1=CC=C(CN2C[C@@H](CC2)NC2=CC=C(C=N2)/C=C/C(=O)OCC)C=C1 | C22H27N3O3
